US07456210B2
3-{(R)-1-[4-(3-Fluoro-benzyloxy)-phenyl]-5-oxo-pyrrolidin-3-yl}-[1,2,4]oxadiazole-5-carboxylic acid amide
3-{(R)-1-[4-(3-Fluoro-benzyloxy)-phenyl]-5-oxo-pyrrolidin-3-yl}-[1,2,4]oxadiazole-5-carboxylic acid ethyl ester (0.110 g, 0.25 mmol) was dissolved in 3.5 ml of ammonia (2 M solution in methanol). The resulting mixture was stirred at 50° C. for half an hour. The mixture was cooled at 0° C. and a solid precipitated. The reaction mixture was filtrated and the solid washed with hexane and dried under vacuum. The residue was suspended in ethyl acetate and heated to reflux. Diethyl ether was added and the suspension cooled to 0° C. and filtrated to yield the title compound as a light brown solid (0.045 g, 44% of theory). MS (m/e)=397.4 (M+H)+.

reactant | 3-{(R)-1-[4-(3-Fluoro-benzyloxy)-phenyl]-5-oxo-pyrrolidin-3-yl}-[1,2,4]oxadiazole-5-carboxylic acid ethyl ester | 0.25 mmol, 0.110 g | C(C)OC(=O)C1=NC(=NO1)[C@H]1CN(C(C1)=O)C1=CC=C(C=C1)OCC1=CC(=CC=C1)F | C22H20FN3O5
reactant | ammonia | 2 M, 3.5 ml | N | H3N
product | 3-{(R)-1-[4-(3-Fluoro-benzyloxy)-phenyl]-5-oxo-pyrrolidin-3-yl}-[1,2,4]oxadiazole-5-carboxylic acid amide | 0.045 g, 44% | FC=1C=C(COC2=CC=C(C=C2)N2C[C@@H](CC2=O)C2=NOC(=N2)C(=O)N)C=CC1 | C20H17FN4O4
